US07329683B2
Concentrated sulfuric acid (44 mL) and boron trifluoride etherate (3.53 mL) were added to a flask and cooled to 8° C. A solution of 1-bromo-3,5-dimethyladamantane (11.02 g) in 1,1-dichloroethylene (35.3 mL) was added dropwise over a 2 hour period. The temperature was kept between 14 and 18° C. and gas evolution was observed. After stirring 1 hour at 10° C., the reaction was worked up by adding to ice and extracting with diethyl ether. The organic layer was extracted with 1N NaOH (3×), and the combined aqueous solution was acidified with sulfuric acid and re-extracted with ether (3×). The organic layers were combined, dried over magnesium sulfate, filtered and evaporated to dryness to give crude 3,5-dimethyladamantaneacetic acid (6.23 g).

reactant | sulfuric acid | 44 mL | S(O)(O)(=O)=O | H2O4S
reactant | boron trifluoride etherate | 3.53 mL | B(F)(F)F.CCOCC
reactant | 1-bromo-3,5-dimethyladamantane | 11.02 g | BrC12CC3(CC(CC(C1)C3)(C2)C)C | C12H19Br
solvent | 1,1-dichloroethylene | 35.3 mL | ClC(=C)Cl | C2H2Cl2
product | 3,5-dimethyladamantaneacetic acid | 6.23 g | CC12CC3(CC(CC(C1)(C3)C)C2)CC(=O)O | C14H22O2
